reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]1[C:6]([H:15])([H:16])[O:7]1)[H:11])([H:8])([H:9])[H:10],118.646188298961
[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[N:2][C:3]([N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])[H:10])([H:8])[H:9],81.87062186814059
[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2](/[C:3]([O:4][C:6]([H:13])([H:14])[H:15])=[C:5](/[C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10],105.863797148405
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[C:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@@:3]1([C:5]([H:14])([H:15])[H:16])[C:4]([H:11])([H:12])[C:7]([H:13])([H:17])[C:6]1)([H:8])([H:9])[H:10],92.69542118446691
[C:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([O:3][H:7])[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9],66.5122307992658
[O:1]([C:2]([O:5][C:4](=[C:3]([H:9])[H:10])[H:11])([H:7])[H:8])[H:6]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:7])[H:8])[H:6],62.4088102172593
[C:1]([H:8])([H:9])([H:10])[H:14].[C:2](=[C:3]([C:4]([C:5]([C:6]([O:7][H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12]>>[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([O:7][H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],98.144752446795
[C:1]([N:2](/[C:3]([N:5]([C:6](=[O:4])[H:13])[H:12])=[N:7]\[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10],83.2336561114585
[N:1]1([H:7])[C@@:2]2([H:8])[O:3][C:4]([H:9])([H:10])[C@:5]1([H:11])[O:6]2>>[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7],38.661035667409
[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:14],80.3677903100239
[N:1]([C:2](=[O:3])[C:4]#[C:5][H:8])([H:6])[H:7]>>[N:1]([C:4]([C:2]#[O+:3])=[C-:5][H:8])([H:6])[H:7],71.70075897652441
[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[O+:1](=[C-:2][H:7])[C:4]1([H:9])[C:3]([H:8])([H:10])[O:6][C:5]1([H:11])[H:12],126.07898893133002
[N:1]([c:2]1[n:3][n:4]([H:9])[c:5]([H:10])[n:6]1)([H:7])[H:8]>>[N:1]([c:2]1[n:3][n:4]([H:9])[c-:5][n+:6]1[H:10])([H:7])[H:8],70.6416480465706
[C:1]([O:2][C:3](=[O:4])[C:5]([N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([O-:4])=[C:5]([N+:6]([H:10])([H:12])[H:13])[H:11])([H:7])([H:8])[H:9],65.1267500383603
[C:1]([O:2][C:3](=[C:4]([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15].[H:10][H:16]>>[C:1]([O:2][C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],39.05659462738901
[C:1]([C@:2]12[C:3]([H:11])([H:12])[C:4][C@@:7]1([H:15])[C@:6]2([O:5][H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10],36.536222495518494
[C:1]([C:2](=[O:3])[H:10])([H:7])([H:8])[H:9].[C:4](=[C:5]=[C:6]([H:11])[H:14])([H:12])[H:13]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],36.21645520634348
[C:1]([C:2]([C:3]([C:4]#[N:5])([H:12])[H:13])=[C:6]=[C:7]([H:11])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],85.05669729048412
[C:1]([C@@:2]1([H:11])[O:3][C:4]1([H:13])[H:14])([H:8])([H:9])[H:10].[N:5](=[C:6](/[O:7][H:12])[H:16])\[H:15]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],48.22515694367681
[N:1](=[C:2]([N:7]=[C:6]=[C:5]([H:12])[H:13])[H:9])[H:8].[O:3]=[C:4]([H:10])[H:11]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],40.87695962326921
[C:1]([N:2](/[C:3]([O:4][C:6]([H:13])([H:14])[H:15])=[C:5](/[C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10],63.440115391461
[N:1](=[C:2](/[O:3][H:8])[N:4]([C:5](=[O:6])[H:10])[H:9])\[H:7]>>[N:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:10])[H:9])([H:7])[H:8],28.212937003130005
[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7]>>[O:1]1[C@:2]([C:4]#[C:5][H:10])([C:6]#[N:7])[C:3]1([H:8])[H:9],99.6265851762027
[O:1]([C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[H:12])([H:7])[H:8])[H:6]>>[O:1]([C:2](/[C:3](=[N:5]/[C:4]([H:10])([H:11])[H:12])[H:9])([H:7])[H:8])[H:6],61.831254103030396
